US04107307
3-[(5-Methyl-2-n-propyl-4-imidazolyl)methylene]carbazic acid ethyl ester
A 12 gm. portion of 5-methyl-2-n-propyl-4-imidazolecarboxaldehyde and 9.06 gm. of ethyl carbazate are reacted as described in Example 32 giving the desired product, m.p. 184°-188° C.

reactant | 5-methyl-2-n-propyl-4-imidazolecarboxaldehyde | CC1=C(N=C(N1)CCC)C=O | C8H12N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-[(5-Methyl-2-n-propyl-4-imidazolyl)methylene]carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1C)CCC)=O | C11H18N4O2
